US06727256B1
(1-Benzyl-1H-indazol-5-yl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine
Prepared according to Procedure B from (1-benzyl-1H-indazol-5-yl)-(6-iodo-7-fluoroquinazolin-4-yl)-amine hydrochloride and 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan. δ 1H NMR (400 MHz, DMSO-d6) δ10.27(s, 1H), 8.89(d, 1H), 8.46(s, 1H), 8.1(d, 2H), 7.69(d, 1H), 7.61(m, 2H), 7.26(m, 5H), 6.96(m, 1H), 6.74(d, 1H), 6.01(s, 1H), 5.65(s, 2H), 4.09(m, 2H), 3.96(m, 2H). ESI-MS m/z 506(M−1).

reactant | (1-benzyl-1H-indazol-5-yl)-(6-iodo-7-fluoroquinazolin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)I)F
reactant | 5-(1,3-dioxolan-2-yl)-2-(tributylstannyl)furan | O1C(OCC1)C1=CC=C(O1)[Sn](CCCC)(CCCC)CCCC
product | (1-Benzyl-1H-indazol-5-yl)-(6-(5-(1,3-dioxolan-2-yl)-furan-2-yl)-7-fluoro-quinazolin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=C(C=C12)C=1OC(=CC1)C1OCCO1)F | C29H22FN5O3
